* Schematics Netlist *



R_R1         $N_0002 $N_0001  2  
C_C1         0 $N_0003  0.5  
C_C4         0 BN  0.5  
L_L14         $N_0004 BN  0.5  
R_R10         $N_0005 $N_0004  2  
R_R2         $N_0003 $N_0006  1  
V_PRINT6         BN AN 0V
        
.PRINT        TRAN I(V_PRINT6)  
.PRINT        AC 
+ IM(V_PRINT6) 
+ IP(V_PRINT6)    
V_V1         $N_0002 0  AC 48
+SIN 0 48 0.318 0 0 90
V_V2         $N_0005 0  AC 48
+SIN 0 48 0.318 0 0 90
L_L4         0 $N_0007  1  
L_L15         0 $N_0008  1  
R_R11         $N_0008 AN  1  
R_R7         $N_0010 $N_0009  2  
C_C3         0 BT  0.5  
V_V3         $N_0010 0  AC 48
+SIN 0 48 0.318 0 0 90
L_L9         $N_0011 AT  0.5  
R_R9         BT $N_0011  1  
L_L10         $N_0009 BT  0.5  
L_L12         0 $N_0012  1  
R_R8         $N_0012 AT  1  
R_R15         $N_0014 $N_0013  0.6098  
L_L20         $N_0013 $N_0015  0.2561  
V_V4         $N_0014 0  AC 11.7429
+SIN 0 11.7429 0.318 0 0 -7.736
           
.PRINT         AC 
+ VM([BT],[AT]) 
+ VP([BT],[AT])    
R_R12         BN $N_0016  1  
L_L13         $N_0016 AN  0.5  
L_L3         $N_0006 $N_0017  0.5  
L_L21         $N_0015 0  0.5  
R_R3         $N_0007 $N_0017  1  
L_L1         $N_0001 $N_0003  0.5  
L_L         $N_0003 $N_0017  0.5  
I_I2         0 $N_0017  AC 3 -48
+SIN 0 3 0.318 0 0 42
I_I5         0 AN  AC 3 -48
+SIN 0 3 0.318 0 0 42
I_I4         0 AT  AC 3 -48
+SIN 0 3 0.318 0 0 42
